US07214673B2
2-Phenethyl-1,4-bis-(toluene-4-sulfonyl)-piperazine
Add 9-BBN (0.5 M THF solution, 13.7 mL, 6.85 mmol) to a 100 mL schlenk flask containing (S)-1,4-bis(toluene-4-sulfonyl)-2-vinyl-piperazine(0.96 g, 2.3 mmol) in THF (5 mL), at room temperature under nitrogen and stir. After 18 hours, treat the reaction with tetrakis(triphenylphosphine) palladium (53 mg, 0.046 mmol), triphenyl phosphine (94.6 mg, 0.36 mmol), iodiobenzene (0.703 g, 3.4 mmol) and 3N NaOH (2.8 mL, 8.4 mmol) and heat to reflux. After 24 hours, cool the reaction to room temperature, remove in vacuo the THF solvent, dilute the residue with CH2Cl2, wash with 1N HCl, brine, and dry over Na2SO4. Purification by flash chromatography twice (Gradient: Hexanes/CH2Cl2=50/50, to Hexanes/CH2Cl2/EtOAc=40/40/10), and recrystallization in MeOH gives 860 mg (75%) of the title compound: mass spectrum (electrospray): (m/z)=499.2 (M+1); 1H NMR (CDCl3): δ7.58–7.54 (m, 4H), 7.33–7.20 (m, 7H), 7.19–7.07 (m, 2H), 3.99 (m, 1H), 3.81–3.78 (m, 1H), 3.64–3.60 (m, 2H), 3.22 (dt, 1H, J=3.2 Hz, J=12.4 Hz), 2.57–2.41 (m, 2H), 2.41 (s, 3H), 2.33 (s, 3H), 2.33–2.20 (m, 2H), 2.03–1.98 (m, 1H), 1.75–1.63 (m, 1H).

reactant | 9-BBN | 6.85 mmol, 0.5 M, 13.7 mL | B1C2CCCC1CCC2 | C8H15B
reactant | (S)-1,4-bis(toluene-4-sulfonyl)-2-vinyl-piperazine | 2.3 mmol, 0.96 g | C1(=CC=C(C=C1)S(=O)(=O)N1[C@H](CN(CC1)S(=O)(=O)C1=CC=C(C=C1)C)C=C)C | C20H24N2O4S2
reactant | triphenyl phosphine | 0.36 mmol, 94.6 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | iodiobenzene | 3.4 mmol, 0.703 g | IC1=CC=CC=C1 | C6H5I
reactant | NaOH | 8.4 mmol, 3N, 2.8 mL | [OH-].[Na+]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
catalyst | tetrakis(triphenylphosphine) palladium | 0.046 mmol, 53 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 2-Phenethyl-1,4-bis-(toluene-4-sulfonyl)-piperazine | 860 mg, 75% | C(CC1=CC=CC=C1)C1N(CCN(C1)S(=O)(=O)C1=CC=C(C=C1)C)S(=O)(=O)C1=CC=C(C=C1)C | C26H30N2O4S2
